US09388189B2
a) 4-((4-Chloro-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)thio)aniline
4-Chloro-5-iodo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine (400 mg, 0.98 mmol) was treated with 4-aminobenzenethiol (130 mg, 1.04 mmol), copper(I) iodide (400 mg, 2.1 mmol), potassium carbonate (300 mg, 2.17 mmol) in N,N-dimethylformamide (8 ml) according to Preparation 86 but stirring at 100° C. for 2 h. The residue was purified using SP1® Purification System (hexane-ethyl acetate) to obtain 350 mg (75% yield) of the title compound. Purity 85%.

reactant | 4-Chloro-5-iodo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine | 0.98 mmol, 400 mg | ClC=1C2=C(N=CN1)N(C=C2I)COCC[Si](C)(C)C | C12H17ClIN3OSi
reactant | 4-aminobenzenethiol | 1.04 mmol, 130 mg | NC1=CC=C(C=C1)S | C6H7NS
reactant | potassium carbonate | 2.17 mmol, 300 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
catalyst | copper(I) iodide | 2.1 mmol, 400 mg | [Cu]I
product | 4-((4-Chloro-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)thio)aniline | 350 mg, 75% yield | ClC=1C2=C(N=CN1)N(C=C2SC2=CC=C(N)C=C2)COCC[Si](C)(C)C | C18H23ClN4OSSi
